US05707991
B tert-Butyl (2RS,4SR,5SR)-1-{2-[3-(3-(ethoxycarbomyl)phenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-(morpholinocarbonyl)pyrrolidine-2-carboxylate can be prepared as described in Example 17B, but from 1.7 g of tert-butyl (2RS,4SR,5SR)-1-(2-aminoacetyl)-5-(2-fluorophenyl)-4-(morpholinocarbonyl)pyrrolidine-2-carboxylate and 0.75 g of ethyl 3-isocyanatobenzoate in 80 cm3 of tetrahydrofuran. After treatment, there are obtained 1.5 g of tert-butyl (2RS,4SR,5SR)-1-{2-[3-(3-(ethoxycarbonyl)phenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-(morpholinocarbonyl)pyrrolidine-2-carboxylate in the form of a foam used as is in the subsequent syntheses.

reactant | tert-butyl (2RS,4SR,5SR)-1-(2-aminoacetyl)-5-(2-fluorophenyl)-4-(morpholinocarbonyl)pyrrolidine-2-carboxylate | 1.7 g | NCC(=O)N1C(CC(C1C1=C(C=CC=C1)F)C(=O)N1CCOCC1)C(=O)OC(C)(C)C | C22H30FN3O5
reactant | ethyl 3-isocyanatobenzoate | 0.75 g | N(=C=O)C=1C=C(C(=O)OCC)C=CC1 | C10H9NO3
solvent | tetrahydrofuran | 80 cm3 | O1CCCC1 | C4H8O
product | tert-butyl (2RS,4SR,5SR)-1-{2-[3-(3-(ethoxycarbonyl)phenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-(morpholinocarbonyl)pyrrolidine-2-carboxylate | 1.5 g | C(C)OC(=O)C=1C=C(C=CC1)NC(NCC(=O)N1C(CC(C1C1=C(C=CC=C1)F)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)=O | C32H39FN4O8
